US05436256
A mixture of 22.2 g of glyoxylic acid ethyl ester ethyl hemiacetal (0.15 mol), 30.0 g of urea (0.5 mol), 90 g of ethanol and 7.5 g of 8% strength ethanolic sulfuric acid was heated under reflux for 4 hours. Thereafter, the reaction had ended and the reaction mixture was cooled to room temperature, whereupon a colorless precipitate separated out, which was filtered off, washed three times with ethanol and dried in vacuo at 70° C. 24.5 g, that is to say 80% of theory, of allantoin acid ethyl ester were obtained by this reaction.

reactant | urea | 0.5 mol, 30.0 g | NC(=O)N | CH4N2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 90 g | C(C)O | C2H6O
product | allantoin | C1(C(=O)NC(=O)N1)NC(=O)N | C4H6N4O3
